US07619095B2
150 g of 2-Methyl-3-nitro phenylacetonitrile is added to 750 ml pure water and 600 ml acetic acid. 675 ml sulfuric acid is added drop wise to the reaction mixture and refluxed for 6-7 hours. After completion of reaction, 2000 ml water is added to it and stirred for 30-45 minutes, filtered and dried to give 2-Methyl-3-nitro phenylaceticacid (130-135 g).

reactant | 2-Methyl-3-nitro phenylacetonitrile | 150 g | CC1=C(C=CC=C1[N+](=O)[O-])CC#N | C9H8N2O2
reactant | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 675 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 2000 ml | O | H2O
solvent | water | 750 ml | O | H2O
product | 2-Methyl-3-nitro phenylaceticacid | 130-135 g | CC1=C(C=CC=C1[N+](=O)[O-])CC(=O)O | C9H9NO4
